Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain/nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male presenting with chest 
pain and vomiting, which he states happened after he had a 
banana today. Patient believes that this might have been an 
allergic reaction to the banana. Initially, he presented to 
urgent care, where he was found to have a systolic BP of 60 
which improved to 110. Per patient, his normal systolic blood 
pressure is in the 140s. 

He describes the pain as right sided chest pain which was 
associated with numbness into his right hand. Numbness has 
decreased but is still present in his right thumb. Denies 
abdominal pain, no numbness or tingling in any of his other 
extremities. 

In the ED, initial VS were  T 97.6, P 70, BP 101/61, RR 17, 
O2sat 99% on RA.  
  
Labs showed WBC 14.1 (86% neutrophils), H/H 12.5/38.6, glucose 
270.

Imaging showed: 
CXR- No acute cardiopulmonary process.

CTA Chest/Abdomen/Pelvis: 
1. No aortic dissection or other acute intrathoracic process.
2. Apparent wall thickening of the gastric antrum and pylorus 
may be secondary to underdistention, however mild gastritis 
cannot be excluded in the appropriate clinical setting. 
Equivocal hyperemia of of the more proximal gastric mucosa is 
nonspecific. If patient is symptomatic, endoscopy could be 
performed as an outpatient.
3. Indeterminate right upper pole renal cyst, for which renal 
ultrasound is recommended for further evaluation.
4. Multiple additional cortical hypodensities in the right 
kidney may represent a parapelvic cyst or a prominent collecting 
system, and can be further assessed with renal ultrasound. 

Received:
IV MethylPREDNISolone Sodium Succ 125 mg  
IV DiphenhydrAMINE 50 mg 
IVF 1000 mL NS 

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports that he feels much 
better and that he is hungry. He denies any infectious or 
localizing symptoms and denies any chest pain or trouble 
breathing. ROS as below. 

REVIEW OF SYSTEMS:  Denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, or hematuria.  All other 10-system review negative in 
detail.  
 
Past Medical History:
Diabetes Mellitus, type 2
 
Social History:
___
Family History:
Unknown, patient believes his father has hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=================================
VS - T 98.7, BP 110/65, P 81, RR 18, O2 sat 99% on RA.  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact  
SKIN: warm and well perfused

DISCHARGE PHYSICAL EXAM:
=================================
VS - T 98.3, BP 101-118/53-74, P 62-80, RR ___, O2sat 98-100% 
on RA
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, nontender, nondistended, no HSM appreciated  
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal  

 
Pertinent Results:
AT ADMISSION:
==========
___ 10:27AM BLOOD WBC-14.1* RBC-4.38* Hgb-12.5* Hct-38.6* 
MCV-88 MCH-28.5 MCHC-32.4 RDW-12.9 RDWSD-41.7 Plt ___
___ 10:27AM BLOOD Neuts-86.4* Lymphs-7.6* Monos-5.1 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-12.15* AbsLymp-1.07* 
AbsMono-0.72 AbsEos-0.01* AbsBaso-0.04
___ 10:27AM BLOOD ___ PTT-24.7* ___
___ 10:27AM BLOOD Glucose-270* UreaN-24* Creat-1.1 Na-133 
K-4.5 Cl-96 HCO3-23 AnGap-19
___ 10:27AM BLOOD ALT-10 AST-18 AlkPhos-51 TotBili-0.4
___ 10:27AM BLOOD cTropnT-<0.01
___ 10:27AM BLOOD Albumin-4.2 Iron-79
___ 10:27AM BLOOD calTIBC-285 Ferritn-41 TRF-219
___ 03:26PM BLOOD Lactate-2.9*

OTHER RELEVANT LABS:
================
___ 07:15AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:15AM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.4 Mg-2.0
___ 07:15AM BLOOD %HbA1c-6.6* eAG-143*
___ 07:15AM BLOOD Cortsol-1.6*
___ 06:40AM BLOOD Cortsol-9.7
___ 07:47AM BLOOD Cortsol-19.0
___ 09:20AM BLOOD Cortsol-23.7*
___ 07:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG
___ 08:30AM BLOOD ___ pO2-107* pCO2-52* pH-7.31* 
calTCO2-27 Base XS-0 
___ 09:26PM BLOOD Lactate-3.7*
___ 08:30AM BLOOD Lactate-2.5*
___ 03:09PM BLOOD Lactate-2.5*
___ 07:44AM BLOOD Lactate-1.8

DISCHARGE LABS:
============
___ 07:00AM BLOOD WBC-7.9 RBC-3.83* Hgb-11.0* Hct-33.6* 
MCV-88 MCH-28.7 MCHC-32.7 RDW-12.9 RDWSD-41.1 Plt ___
___ 07:00AM BLOOD Glucose-147* UreaN-13 Creat-0.9 Na-142 
K-4.3 Cl-103 HCO3-31 AnGap-12
___ 07:00AM BLOOD Calcium-8.9 Phos-4.2 Mg-1.9
___ 07:00AM BLOOD Cortsol-4.5
___ 10:05PM URINE Color-Straw Appear-Clear Sp ___
___ 10:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:05PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
URINE CULTURE (Final ___:    NO GROWTH.

IMAGING:
============
CXR (___): IMPRESSION: No acute cardiopulmonary process.

CTA CHEST and CT ABDOMEN/PELVIS: 
IMPRESSION:
1. No aortic dissection or other acute intrathoracic process.
2. Apparent wall thickening of the gastric antrum and pylorus 
with equivocal nonspecific hyperemia in the more proximal 
gastric mucosa may be secondary to underdistention, however mild 
gastritis cannot be excluded in the appropriate clinical 
setting.  Endoscopy could be performed as an outpatient if 
clinically indicated.
3. Indeterminate right upper pole renal cyst, for which 
outpatient renal ultrasound is recommended for further 
evaluation.
4. Multiple additional cortical hypodensities in the right 
kidney may represent parapelvic cysts or a prominent collecting 
system, and can be further assessed at time of renal ultrasound.
RECOMMENDATION(S):   Recommend outpatient renal ultrasound.

 
Brief Hospital Course:
Mr. ___ is a ___ M with a hx of HTN, T2DM on oral 
antihyperglycemics, who presented with vomiting and chills, with 
slight chest pain after eating a banana. He was found to have 
BPs in ___ (baseline 140s, confirmed by PCP office as well, 
recently started on Lisinopril). He had an elevated lactate 
which required fluid resuscitation and normalized. 

#Hypotension and elevated lactate- Patient had a SBP of 64 in 
the urgent care clinic after the onset of his nausea and 
vomiting after eating a banana and had an elevated lactate at 
admission that has since resolved after IVF resuscitation. SBPs 
have been in the 110s, although patient's baseline per PCP and 
patient is in the 140s. Orthostatic vital signs were normal on 
discharge. 

Broad shock w/u underwent, including   CTA to r/o 
dissection/PE/pericardial effusion, normal pulsus, r/oMI, 
telemetry, UA/UCx, BCx, history and physical exam not  
remarkable for any signs of angioedema, no neurologic signs or 
symptoms to suggest neurogenic cause, other than single episode  
of vomiting no other signs of GI distress or severe diarrhea,  
guaiac negative and hct stable, TSH wnl

Infectious workup was unrevealing and LFTs were within normal 
limits suggesting no acute liver injury explaining elevated 
lactate. Toxicology workup was negative. The patient was taking 
lisinopril 20 mg daily, which was held during this admission and 
at discharge. Patient's blood pressures should be monitored in 
the outpatient setting and restarted if needed and if adrenal 
insufficiency has been excluded (see below).

In the end, his hypotension was cryptogenic but we suspect 
medication induced hypotension ___ recently uptitrated 
lisinopril in a patient who has recently become normotensive at 
new baseline (see below). 

#Question of Adrenal Insufficiency: In the ED he received  IVF 
and a single dose of diphenhydramine/methylprednisolone in  case 
there was an anaphylactic component. AM cortisol on ___ was 1.6 
and there was suspicion for adrenal insufficiency.  However, the 
following 2 mornings AM cortisol  was >8, and a Cosyntropin 
stimulation test showed appropriate  cortisol response.  
However, since this was atypical, endocrinology was consulted 
and recommended mass-spectrometry of ___ cortisol specimen. They 
felt the initial result may be have been interference with the 
assay and the dose of steroids. Endocrinology will plan to 
follow-up this specimen and will contact patient if additional 
follow-up is needed for further work-up or evaluation. 

#Chest pain- Patient initially had chest pain a few hours after 
vomiting that resolved since admission to the floor. EKG was 
initially concerning for STE vs J point elevation, possible 
early repolarization, but follow-up EKG was unrevealing. Trops 
x2 negative. CT-Abdomen/Pelvis shows evidence of possible 
gastritis, so perhaps this was gastric in origin. Consider EGD 
in outpatient setting for gastritis.

#Diabetes- Patient's medication regimen consists of metformin 
1000 mg BID and glimepiride 2 mg daily. Per PCP ___, HgbA1c 
was 13.6 in ___. However during this admission, HgbA1c 
was 6.6. Patient's glipizide and metformin were held and he was 
started on an insulin sliding scale and had QACHS fingersticks. 
Patient required minimal doses of insulin at bedtime during 
admission. In light of this, metformin and glimepiride were 
discontinued. Further monitoring and management should be 
considered in the outpatient setting. 

#Anemia: unknown baseline, H/H ___ from 12.5/___.6 at 
admission. No signs and symptoms of bleeding. Guiac stools were 
negative and iron studies wnl. Anemia work-up should be 
considered in the outpatient setting along with planned 
colonoscopy. 

TRANSITIONAL ISSUES:
=======================
-Anemia workup in the outpatient setting.
-Routine colon cancer screening with colonoscopy and health 
maintenance per PCP.
-Pending labs at discharge: ACTH level (send out)

-Please refer patient to further endocrinology followup
-CTA Chest/Abdomen/Pelvis revealed: Apparent wall thickening of 
the gastric antrum and pylorus with equivocal nonspecific 
hyperemia in the more proximal gastric mucosa may be secondary 
to underdistention, however mild gastritis cannot be excluded in 
the appropriate 
clinical setting. Endoscopy could be performed as an outpatient 
if clinically indicated. This should be monitored and worked-up 
in the outpatient setting. 

- CTA Abdomen/Pelvis revealed indeterminate right upper pole 
renal cyst, for which outpatient renal ultrasound is recommended 
for further evaluation. Multiple additional cortical 
hypodensities in the right kidney may represent parapelvic cysts 
or a prominent collecting system, and can be further assessed at 
time of renal ultrasound. 

-Metformin and glimepiride were discontinued in the setting of 
Hgb A1c 6.6 and mostly normal blood glucose levels. Patient only 
required very few doses of insulin at bedtime during admission.
-Lisinopril was discontinued in the setting of hypotension. BPs 
should be monitored and anti-hypertensives can be added in the 
setting of hypertension. 

-Follow-up with ___ at ___ as scheduled.

-Metformin and glimepiride were discontinued in the setting of 
Hgb A1c 6.6 and mostly normal blood glucose levels. Patient only 
required very few doses of insulin at bedtime during admission.
-Lisinopril was discontinued in the setting of hypotension. BPs 
should be monitored and anti-hypertensives can be added in the 
setting of hypertension. 

-Follow-up with ___ at ___ as scheduled. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. glimepiride 2 mg oral DAILY 
3. Lisinopril 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Vitamin D 1000 UNIT PO DAILY  
3. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until patient has HTN.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Hypotension
-Lactate Elevation
-Rule out Adrenal Insufficiency
-Diabetes Type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you had some nausea and 
vomiting after eating a banana. Your blood pressure was very low 
and you had decreased blood flow to your organs. We gave you 
lots of fluids, which helped with your blood pressure. You also 
had some lab work that was mostly normal. 

The Endocrinologists are monitoring a level called cortisol, 
which is a hormone that affects your stress response. They will 
contact you and schedule a follow-up appointment if there is an 
abnormality.

You should follow-up with your PCP so that your blood pressure 
can be monitored once you leave the hospital. Your high blood 
pressure medication was discontinued and you should stop taking 
it until you follow-up with your PCP. Your diabetes was also 
under good control so your medications were discontinued; please 
follow-up with your PCP so further monitoring of your sugars can 
be continued. 

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___